Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache and neck pain

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI from day of admission:
This is a ___ y/o G5P___, s/p SVD on ___, who presents
with a headache that began on ___. The headache is located
on the right side, with radiation to the posterior occiput. It
has been present since ___, and has been a stable ___.
There is pain localized over her occiput/neck, and is worst when
she lays down. She denies any neurological deficits such as
dropping glasses, changes in gait or incontinence. She endorses 
a
one time vision blurriness this morning, though this has now
subsided. She denies photophobia, phonophobia or an aura. She 
has
a history of headaches, though she feels that this has been the
most severe headache that she has had. 

The patient has been able to maintain her daily activities,
tolerating a regular diet without nausea and vomiting, voiding
spontaneously, walking normally with lochia less than menses.
Denies SOB/CP, constipation/diarrhea, fevers or chills.

She is currently living in the ___ with her two other
children. She denies conflicts at the ___, but says that she
has not been able to sleep much or eat regularly. She is
hydrating, though only ___ small bottles of water a day. She
denies homicidal ideation, suicidal ideations, or thoughts of
hurting the baby. She feels stressed and tired, though she is
still very happy that the baby is part of her life.
 
Past Medical History:
OBHx: SVD x 3, TAB, ruptured ectopic s/p L salpingectomy in
___

GynHx: Negative pap. GC/CT negative. HSV-2 as above.

PMH: 
-Depression as above

PSH: L LSC salpingectomy in ___ for ruptured ectopic

MEDS: PNV
All: NKDA

 
Social History:
SH: Living in shelter with her two children. No Tob use. Stopped
MJ use. Multiple social stressors, see above.

 
Physical Exam:
On day of admission
98.1  57  128/90  18
130/82 -> 131/86
Gen: A&O, NAD
CV: RRR, no r/m/g
Pulm: CTAB
Abd: +BS, soft, NT/ND, no rebound or guarding, fundus at
umbilicus, firm
Ext: calves nontender bilaterally, no c/c/e
Neuro: EOMI, CN II-XII grossly intact, ___ equal and symmetric
strength in upper and lower extremity bilaterally
- headache is worst when she lays down, no change with neck
flexion, extension, or manipulation to either left or right

 
Pertinent Results:
___ 01:23PM URINE  MUCOUS-RARE
___ 01:23PM URINE  RBC-11* WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 01:23PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM 
___ 01:23PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:23PM URINE  HOURS-RANDOM CREAT-205 TOT PROT-21 
PROT/CREA-0.1
___ 01:25PM   PLT COUNT-287
___ 01:25PM   WBC-7.6 RBC-4.33 HGB-14.5 HCT-43.7 MCV-101* 
MCH-33.5* MCHC-33.2 RDW-13.2
___ 01:25PM   URIC ACID-9.0*
___ 01:25PM   ALT(SGPT)-79*
___ 01:25PM   estGFR-Using this
___ 01:25PM   UREA N-14 CREAT-0.8
 
Brief Hospital Course:
Given the headache on admission, transient blurry vision,  the 
one elevated diastolic blood pressure of 90 and the elevated ALT 
there was concern for post partum pre-ecclampsia but on 
admission she did not meet diagnostic criteria with one isolated 
elevated pressure. Her symptoms were followed closely and her 
headache was relieved with toradol and fioricet. On hospital day 
#2 her blood pressures were found to be elevated and she was 
started on magnesium for pre-ecclampsia. She remained stable and 
tolerated the magnesium well for 24 hours. Since she has a 
history of migraines she was encouraged to follow up with 
neurology for better control of migraines. Anesthesia consulted 
and did not believe that these headaches were consistent with 
spinal headaches.  She was discharged home on hospital day #4 
with stable blood pressures and headaches that responded well to 
compazine, caffeine. She was counseled that she should present 
to ___ for a blood pressure check in ___ days.
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*100 Capsule Refills:*1
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
You should also follow up with Neurology at your appointment 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth q6h:prn Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
headache
elevated blood pressure
mildly elevated liver enzymes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were readmitted to the postpartum service for observation 
because of elevated blood pressure, a headache and some blood 
work abnormalities. Your headache resolved with treatment here 
and your blood pressure remained in a range that does not 
require treatment at this time. You were felt to be safe to be 
discharge to home. It is important that you follow up with you 
outpatient doctor for blood pressure checks.

Nothing in the vagina for 6 weeks after delivery(No sex, 
douching, tampons)
Do not drive while taking Percocet
Do not take any acetaminophen (APAP) until your doctor tells you 
it is safe
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
headache not controlled with over the counter medications,   
shortness of breath, dizziness, palpitations, fever of 101 or 
above, abdominal pain, heavy vaginal bleeding, nausea/vomiting 
or any other concerns.
 
Followup Instructions:
___